### PR TITLE
[Merged by Bors] - feat(Analysis/Normed/Module/WeakDual): register bornology and boundedness API

### PR DESCRIPTION
**Pull request by mike1729**
## Description

This PR registers `Bornology` instance and introduces a boundedness API as discussed [on Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/instBornology.20for.20WeakSpace.20and.20WeakDual/with/577457935).

### Main additions

- **`WeakDual.instBornology`**: Bornology instance on `WeakDual 𝕜 E` inherited from `StrongDual 𝕜 E` via `inferInstanceAs`. This makes `IsBounded` available directly on weak dual sets, where boundedness means operator-norm boundedness.

- **`isBounded_iff_isVonNBounded`**: For normed spaces over `ℝ` or `ℂ`, norm-boundedness and weak-* von Neumann boundedness coincide (via Banach–Steinhaus).

- **`isBounded_polar`** and **`isBounded_closedBall`**: Standalone lemmas replacing repeated inline `isBounded_toStrongDual_preimage_iff_isBounded.mpr ...` patterns.

- **Simp lemmas**: `isBounded_toStrongDual_preimage_iff_isBounded` and `isBounded_toWeakDual_preimage_iff_isBounded` for translating between weak and strong dual boundedness.

### API simplification

The existing lemmas `isClosed_image_coe_of_bounded_of_closed`, `isCompact_of_bounded_of_closed`, and `isSeqCompact_of_isBounded_of_isClosed` now take `IsBounded s` directly instead of the more verbose `IsBounded (StrongDual.toWeakDual ⁻¹' s)`, since the two are definitionally equal with the new bornology instance.

### Minor changes

- Replaced `grind` tactic usage with explicit term
- Fixed deprecation dates from 2024-11-19 to 2025-11-19
- Renamed local variable `F` to `E` for consistency with the rest of the file
- Added comprehensive module and declaration docstrings

---

- [ ] depends on: —
- [ ] modifies an existing declaration: yes (simplified signatures of `isClosed_image_coe_of_bounded_of_closed`, `isCompact_of_bounded_of_closed`, `isSeqCompact_of_isBounded_of_isClosed`)
- [ ] adds new declarations: yes (`instBornology`, `isBounded_toStrongDual_preimage_iff_isBounded`, `isBounded_toWeakDual_preimage_iff_isBounded`, `isVonNBounded_iff_pointwise_bounded`, `isBounded_iff_isVonNBounded`, `isBounded_iff_pointwise_bounded`, `isBounded_closedBall`, `isBounded_polar`)

---

Open in Gitpod
-->

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 1]
```diff
@@ -48,6 +41,49 @@ the weak-* topology on (its type synonym) `WeakDual 𝕜 E`:
...
+## Main definitions
+
+* `StrongDual.toWeakDual` and `WeakDual.toStrongDual`: Linear equivalences between the dual types.
+* `WeakDual.instBornology`: The norm bornology on `WeakDual 𝕜 E`.
+* `WeakDual.polar`: The polar set of `s : Set E` viewed as a subset of `WeakDual 𝕜 E`.
+
+## Main results
+
+### Topology comparison
+* `dual_norm_topology_le_weak_dual_topology`: The weak-* topology is coarser than the norm topology.
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]:
```suggestion
* `NormedSpace.Dual.toWeakDual_continuous`: The weak-* topology is coarser than the norm topology.
```

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 2]
```diff
@@ -203,35 +238,136 @@ namespace WeakDual
...
+    IsBounded (toStrongDual ⁻¹' closedBall x' r) :=
+  isBounded_toStrongDual_preimage_iff_isBounded.mpr Metric.isBounded_closedBall
+
 variable (𝕜)
 
+/-- The **Banach-Alaoglu theorem**: closed balls of the dual of a normed space `E` are compact in
+the weak-star topology. -/
+theorem isCompact_closedBall [ProperSpace 𝕜] (x' : StrongDual 𝕜 E) (r : ℝ) :
+    IsCompact (toStrongDual ⁻¹' closedBall x' r) :=
+  isCompact_of_bounded_of_closed (isBounded_closedBall x' r) (isClosed_closedBall x' r)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]: I don't see why `𝕜` should be explicit here.

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 3]
```diff
@@ -105,19 +126,21 @@ mapping). It is a linear equivalence. -/
 def toWeakDual : StrongDual R M ≃ₗ[R] WeakDual R M :=
   LinearEquiv.refl R (StrongDual R M)
 
-@[deprecated (since := "2025-08-3")] alias _root_.NormedSpace.Dual.toWeakDual := toWeakDual
+@[deprecated (since := "2025-08-03")] alias _root_.NormedSpace.Dual.toWeakDual := toWeakDual
 
 @[simp]
 theorem coe_toWeakDual (x' : StrongDual R M) : toWeakDual x' = x' :=
   rfl
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean:134]: 😨 How is this a simp lemma?! This completely obliterates the type synonym barrier. Would you mind making another PR which removes the simp attribute from this lemma and fixing the breakage?

The same applies to `WeakDual.coe_toStrongDual` (you should fix both in the same PR). You can mark `WeakDual.toStrongdual_apply` as `simp`, and add the corresponding lemma in the other direction and mark it as `simp` too. This should help minimize the fallout.

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 4]
```diff
@@ -203,35 +238,136 @@ namespace WeakDual
...
+    obtain ⟨W, hW, hWV⟩ := hV
+    have hpi : Bornology.IsVonNBounded 𝕜 ((fun f x ↦ f x) '' s) :=
+      isVonNBounded_pi_iff.mpr fun x ↦ let ⟨C, hC⟩ := h x
+        (NormedSpace.isVonNBounded_iff' 𝕜).mpr
+          ⟨C, by rintro _ ⟨_, ⟨f, hf, rfl⟩, rfl⟩; exact hC f hf⟩
+    obtain ⟨r, hr, hab⟩ := (hpi hW).exists_pos
+    refine Absorbs.mono_left (Absorbs.of_norm ⟨r, fun c hc f hf ↦ ?_⟩) hWV
+    have hc0 : c ≠ 0 := norm_pos_iff.mp (hr.trans_le hc)
+    have hmem := hab c hc (Set.mem_image_of_mem (fun f x ↦ f x) hf)
+    rwa [Set.mem_smul_set_iff_inv_smul_mem₀ hc0] at hmem ⊢
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]: This follows immediately from the fact that the topology is induced by a family of seminorms. We have this for `WeakBilin`, but it hasn't been transferred yet to `WeakDual`. You could just use the `WeakBilin` version, but it's better to set things up on `WeakDual` since it's a (non-`abbrev`) type synonym.

```suggestion
set_option backward.isDefEq.respectTransparency false in
variable (𝕜 E) in
def seminormFamily : SeminormFamily 𝕜 (WeakDual 𝕜 E) E :=
  (topDualPairing 𝕜 E).toSeminormFamily

set_option backward.isDefEq.respectTransparency false in
@[simp]
lemma seminormFamily_apply (x : E) (f : WeakDual 𝕜 E) : seminormFamily 𝕜 E x f = ‖f x‖ :=
  rfl

set_option backward.isDefEq.respectTransparency false in
variable (𝕜 E) in
lemma withSeminorms : WithSeminorms (seminormFamily 𝕜 E) :=
  (topDualPairing 𝕜 E).weakBilin_withSeminorms

set_option backward.isDefEq.respectTransparency false in
/-- A set in the weak dual is von Neumann bounded iff it is pointwise bounded. -/
theorem isVonNBounded_iff_pointwise_bounded {s : Set (WeakDual 𝕜 E)} :
    Bornology.IsVonNBounded 𝕜 s ↔ ∀ x : E, ∃ r > 0, ∀ f ∈ s, ‖f x‖ < r :=
  (withSeminorms 𝕜 E).isVonNBounded_iff_seminorm_bounded
```

The `set_option`s are only necessary since otherwise Lean fails to infer a `Module 𝕜 (WeakDual 𝕜 E)` instance, which is probably the fault of `deriving` and not relevant to this PR.

In fact, I wouldn't even bother writing the `isVonNBounded_iff_pointwise_bounded` lemma, as its a direct application of this result.

**Review by j-loreaux — COMMENTED** [review]
looks reasonable, but see my comments. If I have time, I will take care of the `simp` issue I mentioned, but I will check to see if you have tackled it first. And if I do, I will post on this PR before I embark on it, so that we don't duplicate effort.

File: Mathlib/Analysis/Normed/Module/WeakDual.lean (hunk 1 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/WeakDual.lean]: Done.

File: Mathlib/Analysis/Normed/Module/WeakDual.lean (hunk 2 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/WeakDual.lean]: Right, removed.

File: Mathlib/Analysis/Normed/Module/WeakDual.lean (hunk 4 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/WeakDual.lean]: Great! Didn't see that. Agree that `isVonNBounded_iff_pointwise_bounded` is not needed. Removed also `isBounded_iff_pointwise_bounded` as it's also easily deducible.

File: Mathlib/Analysis/Normed/Module/WeakDual.lean (hunk 3 above)
Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/WeakDual.lean:134]: Done in https://github.com/leanprover-community/mathlib4/pull/36795

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 5]
```diff
@@ -203,35 +239,117 @@ namespace WeakDual
...
+def seminormFamily : SeminormFamily 𝕜 (WeakDual 𝕜 E) E := (topDualPairing 𝕜 E).toSeminormFamily
+
+set_option backward.isDefEq.respectTransparency false in
+@[simp]
+lemma seminormFamily_apply (x : E) (f : WeakDual 𝕜 E) : seminormFamily 𝕜 E x f = ‖f x‖ := rfl
+
+set_option backward.isDefEq.respectTransparency false in
+variable (𝕜 E) in
+lemma withSeminorms : WithSeminorms (seminormFamily 𝕜 E) :=
+  (topDualPairing 𝕜 E).weakBilin_withSeminorms
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean:266]: I *think* this should all be able to move to `Mathlib.Analysis.LocallyConvex.WeakDual` without increasing the imports there. Please let me know if I'm wrong.

Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/WeakDual.lean:266]: Actually we cannot move there without increasing imports, since `Analysis.LocallyConvex.WeakDual` is about general `WeakBilin` and doesn't import `Topology.Algebra.Module.WeakDual` where `WeakDual` is defined.

Comment (j-loreaux) [reply Mathlib/Analysis/Normed/Module/WeakDual.lean:266]: That's mildly frightening.

Comment (mike1729) [reply Mathlib/Analysis/Normed/Module/WeakDual.lean:266]: Here is a clean-up https://github.com/leanprover-community/mathlib4/pull/37027.

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
